US06995263B2
d] {6-[6-(4-Trifluoromethoxy-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid
In analogy to the procedure described in example 5 g], {6-[6-(4-trifluoromethoxy-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester was treated with LiOH to obtain the title compound as yellow crystals.

reactant | {6-[6-(4-trifluoromethoxy-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1C=NC(=CC1)C1=CC=C(C=C1)OC(F)(F)F)=O | C27H25F3N2O4
reactant | LiOH | [Li+].[OH-]
product | {6-[6-(4-Trifluoromethoxy-phenyl)-pyridin-3-ylmethoxy]-indol-1-yl}-acetic acid | FC(OC1=CC=C(C=C1)C1=CC=C(C=N1)COC1=CC=C2C=CN(C2=C1)CC(=O)O)(F)F | C23H17F3N2O4
